US09056859B2
Step C: tert-butyl 9H-fluoren-9-ylmethyl 2,3-dihydropyrazine-1,4-dicarboxylate
In a round bottom flask charged with stirring bar, 1-tert-butyl 4-(9H-fluoren-9-ylmethyl) 2-hydroxypiperazine-1,4-dicarboxylate (4.34 g, 10.2 mmol) was dissolved in THF (100 mL) and was cooled down to 0° C. under N2. Then TFAA (1.589 mL, 11.25 mmol) was added. After stirring at 0° C. for 20 minutes, reaction was quenched by adding saturated aq. NaHCO3 and warmed up to room temperature. Then reaction was diluted by adding 200 mL of DCM and 100 mL of water. Layers were separated and aqueous layer was extracted with 100 mL of DCM. Organic phases were combined and dried over anhydrous Na2SO4. Removing solvent gave crude product that was purified by ISCO (120 gram silica gel column, 0-50% EtOAc/Hexane gradient). Concentration gave the title compound. 1H NMR (ppm) (500 MHz, CDCl3): δ 7.81 (2H, d, J=7.59 Hz), 7.61 (2H, dd, J=13.92, 7.51 Hz), 7.44 (2H, t, J=7.49 Hz), 7.35 (2H, t, J=7.47 Hz), 6.27-6.14 (2H, m), 4.52 (2H, dd, J=19.02, 6.70 Hz), 4.31 (1H, t, J=6.89 Hz), 3.81-3.68 (4H, m), 1.54 (9H, s); LC/MS (M+23)+=429.13;

reactant | 1-tert-butyl 4-(9H-fluoren-9-ylmethyl) 2-hydroxypiperazine-1,4-dicarboxylate | 10.2 mmol, 4.34 g | OC1N(CCN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C24H28N2O5
reactant | TFAA | 11.25 mmol, 1.589 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | DCM | 200 mL | C(Cl)Cl | CH2Cl2
reactant | water | 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 9H-fluoren-9-ylmethyl 2,3-dihydropyrazine-1,4-dicarboxylate | N1(CCN(C=C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C24H26N2O4
